Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Hyponatremia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female with hypothyroidism and hyperlipidemia and 
being treated for pneumonia who presents with hyponatremia found 
on outpatient labs.  She was diagnosed with CAP on ___ after 
presenting with cough and fever. She was prescribed levofloxacin 
that day, but had significant emesis after starting and was 
recommended to switch to azithromycin.  She reportedly has not 
stopped the levofloxacin and has not started the Zithromax.  
Patient's previously noted sodium baseline is 133 in ___.  
Sodium was checked as an outpatient and was noted to be 113.  
The lab finding was incidental, with patient not complaining of 
lightheadedness, dizziness, headaches, confusion or seizure 
activity initially.  Now when seen, she does report some 
lightheadedness when all of this has been going on.

In the ED, initial vitals were 98.7 65 148/79 15 100% RA.  WBC 
was 3.2K, sodium 118, urine sodium 24, urine osmolality 366.  
Sodium was rechecked 22 hours after initial low sodium and was 
found to be 124.  She received 2 liters NS and acetaminophen 650 
mg x 1.  CXR showed no acute process.  UA was unremarkable, with 
urine culture sent.

Currently, she reports no vision changes, weakness or numbness, 
headache or seizure activity.  She has a mild cough.  There are 
no current fevers or chills.

 
Review of systems:  
10 pt ROS negative other than noted
 
Past Medical History:
Pancreatitis with pancreas enlargement noted at ___ 
___ ___ years ago
Cervical spine osteoarthritis
Peptic ulcer disease
 
Social History:
___
Family History:
Mother with stroke in ___
Brother with stomach cancer
Sister with rheumatoid arthritis
 
Physical Exam:
ADMISSION EXAM:
=============
Vitals: 98.5PO 145/90 65 16 95% on RA 
GEN: Alert, oriented to name, place and time. Fatigued appearing 
but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: EOMI, muscle strength ___ in all major muscle groups, 
sensation to light touch intact, non-focal.  
PSYCH: Appropriate and calm.  

DISCHARGE EXAM essentially unchanged from admission exam.
 
Pertinent Results:
ADMISSION LABS:
=============
___ 03:20PM BLOOD WBC-3.9* RBC-4.28 Hgb-13.0 Hct-36.7 
MCV-86# MCH-30.4 MCHC-35.4 RDW-11.9 RDWSD-37.2 Plt ___
___ 03:20PM BLOOD UreaN-11 Creat-0.8 Na-113* K-4.7 Cl-80* 
HCO3-22 AnGap-16
___ 03:20PM BLOOD Iron-31 Cholest-226*
___ 03:20PM BLOOD Triglyc-82 HDL-108 CHOL/HD-2.1 
LDLcalc-102
___ 03:20PM BLOOD Ferritn-217*
___ 09:20AM BLOOD Osmolal-250*
___ 03:20PM BLOOD TSH-5.4*
___ 08:41PM BLOOD Na-128*

DISCHARGE LABS:
=============
___ 07:00AM BLOOD WBC-3.4* RBC-4.00 Hgb-12.4 Hct-34.2 
MCV-86 MCH-31.0 MCHC-36.3 RDW-12.0 RDWSD-38.0 Plt ___
___ 07:00AM BLOOD Glucose-98 UreaN-9 Creat-0.7 Na-131* 
K-4.0 Cl-97 HCO3-23 AnGap-15
___ 03:04AM BLOOD Calcium-8.3* Phos-2.9 Mg-2.___ year old female with hypothyroidism and hyperlipidemia and 
being treated for pneumonia who presents with hyponatremia found 
on outpatient labs.

# Hyponatremia: Na: 113 on admission, prior Na's have been in 
130's range.  Given recent pna and elevated urine osm, likely a 
component of SIADH.  However, pt was also noted to be 
orthostatic and corrected 11mEq in 24 hours with IVF's 
suggesting also related to hypovolemia.  Pt also reported 
drinking a lot of tea and water in s/o poor PO intake from 
recent illness so possible low solute intake.  Nephrology was 
consulted given rapid overcorrection and was given 1 liter D5W 
to counteract this.  Her Na improved to 131 on day of discharge 
and pt no longer felt orthostatic when ambulating.
 
# Possible pneumonia: patient recently treated with 
levofloxacin, switched to azithromycin due to having nausea with 
vomiting.  Apparently, she did not stop taking the levofloxacin 
however.  On CXR in the ED, she was found to have no evidence of 
pneumonia so was not treated with further abx while inpatient.  
 
Biling: greater than 30 minutes spent on discharge counseling 
and coordination of care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fish Oil (Omega 3) 1000 mg PO BID 
2. Multivitamins 1 TAB PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Cal-Citrate (calcium citrate-vitamin D2) 315/200 mg/units 
oral Q8H 
5. Glucosamine 1500 Complex (glucosamine-chondroit-vit C-Mn) 
500-400 mg oral Q24H 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Cal-Citrate (calcium citrate-vitamin D2) 315/200 mg/units 
oral Q8H  
3.  Fish Oil (Omega 3) 1000 mg PO BID  
4.  Glucosamine 1500 Complex (glucosamine-chondroit-vit C-Mn) 
500-400 mg oral Q24H  
5.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyponatremia
Community acquired pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with low sodium levels.  We think that this was 
related to your pneumonia and low oral intake due to your recent 
illness.  We gave you some fluids and your sodium levels 
improved.

Please continue to stay hydrated and eat as much as you can 
tolerate after discharge.  Please call your PCP if you 
experience any dizziness, nausea, vomiting, fevers, or if you 
have any other concerns.

It was a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___